US08791123B2
Step C: Preparation of (R)—N-(1-amino-2-methylpropan-2-yl)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide hydrochloride
(R)-tert-butyl 2-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamido)-2-methylpropylcarbamate (109 mg, 0.212 mmol) was dissolved in DCM (1.0 mL) and 4N HCl in dioxane (0.530 mL, 2.12 mmol) was added. The mixture was stirred at ambient temperature for 4 hours and was concentrated afford the title compound (105 mg). MS (apci) m/z=415.2 (M+H).

reactant | (R)-tert-butyl 2-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamido)-2-methylpropylcarbamate | 0.212 mmol, 109 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)NC(CNC(OC(C)(C)C)=O)(C)C | C26H32F2N6O3
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 2.12 mmol, 0.530 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(1-amino-2-methylpropan-2-yl)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide hydrochloride | 105 mg | Cl.NCC(C)(C)NC(=O)C=1C=NN2C1N=C(C=C2)N2[C@H](CCC2)C2=C(C=CC(=C2)F)F | InChI=1S/C21H24F2N6O.ClH/c1-21(2,12-24)27-20(30)15-11-25-29-9-7-18(26-19(15)29)28-8-3-4-17(28)14-10-13(22)5-6-16(14)23;/h5-7,9-11,17H,3-4,8,12,24H2,1-2H3,(H,27,30);1H/t17-;/m1./s1
